US04745115
5-Bromo-1-(2'-chlorophenyl)-1,4-dihydro-benz[g]isoquinol-3-one
This compound was prepared from 1-bromo-2-naphthylacetonitrile and 2-chlorobenzaldehyde. m.p. 256°-257° C. (chloroform-ethyl acetate).

reactant | 1-bromo-2-naphthylacetonitrile | BrC1=C(C=CC2=CC=CC=C12)CC#N | C12H8BrN
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | chloroform ethyl acetate | C(Cl)(Cl)Cl.C(C)(=O)OCC
product | 5-Bromo-1-(2'-chlorophenyl)-1,4-dihydro-benz[g]isoquinol-3-one | BrC1=C2CC(NC(C2=CC2=C1C=CC=C2)C2=C(C=CC=C2)Cl)=O | C19H13BrClNO
